US04643996
5-(p-Chlorophenyl)-2-furoic Acid 1-Acetylhydrazine
A mixture of 111.5 g (0.50 mole) of 5-(p-chlorophenyl)-2-furoic acid in 500 ml of thionyl chloride was heated at refluxed for 13/4 hr. After slight cooling, the reaction mixture was filtered and the filtrate was concentrated in a water bath at reduced pressure to a creamy solid. The solid was dissolved in 400 ml of chloroform. To this chloroform solution under stirring at room temperature was added a suspension of 74 g (1.0 mole) of acetylhydrazine in 900 ml of chloroform. Addition was completed in about 20 min. White creamy solid separated fairly readily while the temperature rose to about 45°. The mixture was allowed to stir at ambient temperature overnight. The mixture was filtered and the solid was washed with chloroform and air dried. The solid was further triturated with water, filtered, washed with water again and air dried. The yield of crude product was 120 g (89%). Recrystallization from ethyl acetate gave 95 g of product, m.p. 206°-208°.

reactant | 5-(p-chlorophenyl)-2-furoic acid | 0.50 mole, 111.5 g | ClC1=CC=C(C=C1)C1=CC=C(O1)C(=O)O | C11H7ClO3
reactant | acetylhydrazine | 1.0 mole, 74 g | C(C)(=O)NN | C2H6N2O
solvent | thionyl chloride | 500 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 900 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-(p-Chlorophenyl)-2-furoic Acid 1-Acetylhydrazine | 95 g | C(C)(=O)NN.ClC1=CC=C(C=C1)C1=CC=C(O1)C(=O)O | InChI=1S/C11H7ClO3.C2H6N2O/c12-8-3-1-7(2-4-8)9-5-6-10(15-9)11(13)14;1-2(5)4-3/h1-6H,(H,13,14);3H2,1H3,(H,4,5)
